US05840911
1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-chlorophenyl)-imidazole dihydrochloride
A mixture of 1.026 g (5 mmol) of 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime, 1.043 g (5 mmol) of 1,2-diamino-4-(4-chlorophenyl)-imidazole (see Beyer H. et al., Chem. Ber. 101, 3151 (1968)) and 20 ml of 4N hydrochloric acid is heated at 120° C. for 18 hours, with stirring, and is then concentrated by evaporation in vacuo. 25 ml of ethanol are added to the crystalline residue, the mixture is cooled to 5° C., with stirring, and is filtered, and the crystallizate is washed with a small amount of ethanol and diethyl ether. The crude title compound, dried under a high vacuum, contains 8.17% water and melts at 226°-228° C. (decomp.), 1H-NMR (D2O): δ=8.06 (d, 1H); 7.75 (d, 1H); 7.55 (t, 1H); 7.40 (s, 1H); 7.38 (d, 2H); 7.28 (d, 2H); 3.21-3.27 (m, 2H), 3.03-3.09 (m, 2H).

reactant | 4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-one oxime | 5 mmol, 1.026 g | ONC(=N)C1=C2CCC(C2=CC=C1)=NO | C10H11N3O2
reactant | 1,2-diamino-4-(4-chlorophenyl)-imidazole | 5 mmol, 1.043 g | NN1C(=NC(=C1)C1=CC=C(C=C1)Cl)N | C9H9ClN4
solvent | hydrochloric acid | 4N, 20 ml | Cl | ClH
product | 1-[4-(N-Hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-chlorophenyl)-imidazole dihydrochloride | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)Cl)N | InChI=1S/C19H17ClN6O.2ClH/c20-12-6-4-11(5-7-12)17-10-26(19(22)23-17)24-16-9-8-13-14(16)2-1-3-15(13)18(21)25-27;;/h1-7,10,27H,8-9H2,(H2,21,25)(H2,22,23);2*1H
